US07897762B2
To a −78° C. solution of 4-bromo-1-t-butyl-1H-pyrazole (15 g, 74.3 mmol) in anhydrous THF (100 mL) was added n-BuLi (2.5 M in hexane, 53 mL, 132 mmol) under N2, and the resulting mixture was stirred at −78° C. for 30 min. Excess dry ice was added at −78° C., and the mixture was warmed slowly to RT and stirred overnight. The reaction was concentrated in vacuo, water was added and the pH was adjusted to pH 3 by the addition of 2N aq HCl. The aqueous solution was extracted with EtOAc. The extracts were washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was recrystallized (EtOAc-pet. ether) to give 1-t-butyl-1H-pyrazole-4-carboxylic acid (8.0 g, 67% yield). 1H NMR (300 MHz, CDCl3): δ 8.10 (s, 1 H), 8.03 (s, 1 H), 1.64 (s, 9 H); MS (ESI) m/z: 168.9 [M+H]+.

reactant | 4-bromo-1-t-butyl-1H-pyrazole | 74.3 mmol, 15 g | BrC=1C=NN(C1)C(C)(C)C | C7H11BrN2
reactant | n-BuLi | 132 mmol, 2.5 M, 53 mL | [Li]CCCC
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-t-butyl-1H-pyrazole-4-carboxylic acid | 8.0 g, 67% yield | C(C)(C)(C)N1N=CC(=C1)C(=O)O | C8H12N2O2
